US08912210B2
Step C: (5S,6R & 5R,6S)-6-Methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-2-one
A mixture of 6-methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)pyridin-2(1H)-one (3.73 g, 11.6 mmol) and platinum(IV) oxide (659 mg, 2.90 mmol) in MeOH (200 mL) was shaken on a Parr hydrogenation apparatus under an atmosphere of hydrogen (ca. 45 psi) for 2 h. The reaction mixture was filtered through a pad of Celite®, washing with MeOH, and the filtrate was concentrated in vacuo to give a crude solid. The crude product was purified by silica gel chromatography, eluting with a gradient of hexanes:Et2O—100:0 to 0:100, to give the title compound. MS: m/z=326.0 (M+1).

reactant | 6-methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)pyridin-2(1H)-one | 11.6 mmol, 3.73 g | CC1=C(C=CC(N1CC(F)(F)F)=O)C1=C(C(=CC(=C1)F)F)F | C14H9F6NO
solvent | MeOH | 200 mL | CO | CH4O
catalyst | platinum(IV) oxide | 2.90 mmol, 659 mg | [Pt](=O)=O
product | 6-Methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-2-one | CC1C(CCC(N1CC(F)(F)F)=O)C1=C(C(=CC(=C1)F)F)F | C14H13F6NO
